US05162336
20.0 g D-tryptophan is suspended in 40 ml of water and 7.83 g 50%(w/w) sodium hydroxide solution is added and this mixture is stirred to give a clear solution. 7.95 g 37% formaldehyde is added and this mixture is stirred for 2 hours at room temperature, then refluxed for 3 hours. The hot solution is poured into 200 ml water and, with vigorous stirring, the pH is adjust to 5 with 6N hydrochloric acid, giving a precipitate. The slurry is stirred for 18 hours, filtered, and the solid dried at 70° C./0.1 mm Hg overnight to give 18.5 g (3R)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid.

reactant | D-tryptophan | 20.0 g | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | sodium hydroxide | 7.83 g | [OH-].[Na+]
reactant | formaldehyde | 7.95 g | C=O | CH2O
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | water | 200 ml | O | H2O
product | (3R)-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole-3-carboxylic acid | 18.5 g | C1N[C@H](CC2=C1NC1=CC=CC=C21)C(=O)O | C12H12N2O2
